Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
codeine / morphine
 
Attending: ___.
 
Chief Complaint:
Dysphagia
 
Major Surgical or Invasive Procedure:
EGD ___ 

 
History of Present Illness:
 ___ w/ PMHx of ___ esophagitis with associated stricture ___ 
years ago at ___, presenting with 2 weeks of worsening 
dysphagia. Patient has been having trouble tolerating solids and 
fluids and reported an episode this morning when he was seen 
choking at his nursing facility. He has otherwise been ___ any 
noted aspirations, coughing, fevers at facility. He was then 
taken to ___ where he had a barium swallow study 
that showed possible strictures. His PCP wanted patient 
transferred for urgent endoscopy given his past issues with 
___ esophagitis and strictures. Transfer unable to be 
arranged to ___. Of note patient was breathing comfortably, 
protecting his airway, speaking clearly, and able to tolerate 
thin liquids while in the ED.  

 
Past Medical History:
Essential hypertension  
 Hypercholesterolemia  
 Dyspepsia  
 C. difficile colitis  
 Osteoporosis  
 Occult blood in stools  
 Breast lump  
 Stage 3 chronic kidney disease  
 Vertigo  
 Congenital hypothyroidism without goiter  
 Benign prostatic hyperplasia with urinary obstruction  
 Subdural hematoma  
 Sepsis due to urinary tract infection  
 Dysphagia  
 Esophagitis  
 Dementia without behavioral disturbance  
 Hyperkalemia  
 Coronary artery disease  
 Cyst of right kidney  
 Closed head injury  
 
 
Social History:
___
Family History:
Non-contributory  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
 VS: 98.0 147 / 62 80 18 97 RA  
 GENERAL: Pleasant elderly M resting comfortably in bed  
 HEENT: NCAT, MMM  
 CV: RRR, no m/r/g  
 PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 GI: Soft, NT/ND, BS+  
 EXTREMITIES: WWP, no c/c/e  
 NEURO: Alert, moving all 4 extremities with purpose, face 
symmetric  

DISCHARGE PHYSICAL EXAM:  
VITALS
24 HR Data (last updated ___ @ 652)
    Temp: 98.3 (Tm 98.3), BP: 130/78 (130-147/62-78), HR: 87
(80-87), RR: 18, O2 sat: 97%, O2 delivery: Ra  

GENERAL: Pleasant elderly M resting comfortably in bed  
HEENT: NCAT, MMM  
CV: RRR, no m/r/g  
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
GI: Soft, NT/ND, BS+  
EXTREMITIES: WWP, no c/c/e  
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric 
 
Pertinent Results:
ADMISSION LABS
___ 10:40AM BLOOD WBC-7.4 RBC-3.99* Hgb-11.9* Hct-37.8* 
MCV-95 MCH-29.8 MCHC-31.5* RDW-14.1 RDWSD-48.7* Plt ___
___ 10:40AM BLOOD Glucose-121* UreaN-26* Creat-1.6* Na-139 
K-5.0 Cl-105 HCO3-22 AnGap-12

DISCHARGE LABS
___ 10:40AM BLOOD WBC-7.4 RBC-3.99* Hgb-11.9* Hct-37.8* 
MCV-95 MCH-29.8 MCHC-31.5* RDW-14.1 RDWSD-48.7* Plt ___
___ 10:40AM BLOOD Glucose-121* UreaN-26* Creat-1.6* Na-139 
K-5.0 Cl-105 HCO3-22 AnGap-12

IMAGING
EGD ___
1. Grade B Esophagitis in the distal esophagus
2. Normal mucosa in the gastroesophageal junction and middle 
third of the esophagus.
3. No evidence of stenosis at the GEJ
4. No evidence of food retained in the esophagus

 
Brief Hospital Course:
___ w/ PMHx of ___ esophagitis with associated stricture ___ 
years ago at ___, presenting with 2 weeks of worsening 
dysphagia.

ACUTE ISSUES:  
=============  
#Dysphagia  
#Hx of ___ esophagitis: 
Patient referred here for endoscopy by his PCP ___/ subacute 
worsening of his dysphagia. Due to his history of ___ 
esophagitis and recurrence of similar symptoms, it was be 
reasonable to repeat EGD to look for recurrence of ___ or 
for a stricture/ring that could be intervened upon (as was 
reportedly seen during barium swallow at OSH). The patient had 
an EGD with grade B esophagitis but no strictures nor remaining 
impacted food. His omeprazole dose was increased to 20 BID for 
___ weeks. 

#?Aspiration PNA: Patient started on Ceftriaxone and 
azithromycin in the ED due to concern for  pneumonia due to CXR 
showing bibasilar opacities which looked consistent with 
aspiration or aspiration PNA. In the absence of fevers, 
leukocytosis, productive cough, or new O2 requirement, 
additional antibiotic coverage was deferred. 

CHRONIC ISSUES:  
===============  
#CAD:  
-Continued ASA 81 mg daily  
-Continued atorvastatin 80 mg QHS  
-Continued metop XL 50 mg daily  

#BPH  
-Continued tamsulosin  

#LUTS  
-Contined vesicare  

#Hypothyroid  
-Continued levothyroxine 125 mcg daily  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 2.5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Ezetimibe 10 mg PO DAILY 
5. Levothyroxine Sodium 125 mcg PO DAILY 
6. Metoprolol Succinate XL 50 mg PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. Tamsulosin 0.4 mg PO QHS 
9. Vesicare (solifenacin) 5 mg oral DAILY 

 
Discharge Medications:
1.  Omeprazole 20 mg PO BID 
***Take 30-minutes before meals*** 
RX *omeprazole 20 mg 1 capsule(s) by mouth Twice Daily Disp 
#*100 Capsule Refills:*0 
2.  amLODIPine 2.5 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 80 mg PO QPM  
5.  Ezetimibe 10 mg PO DAILY  
6.  Levothyroxine Sodium 125 mcg PO DAILY  
7.  Metoprolol Succinate XL 50 mg PO DAILY  
8.  Tamsulosin 0.4 mg PO QHS  
9.  Vesicare (solifenacin) 5 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
# Dysphagia  
# History of ___ esophagitis

Secondary Diagnosis:
# Coronary Artery Disease   
# Benign Prostatic Hyperplasia 
# Lower urinary tract symptoms
# Hypothyroid  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

WHY WAS I ADMITTED TO THE HOSPITAL?
You were admitted to the hospital because you had trouble 
swallowing.  

WHAT WAS DONE WHILE I WAS HERE?
We had the gastrointestinal doctors ___ who looked down 
your throat with a camera.  They saw inflammation.  You were 
initially placed on antibiotics due to concern for pneumonia, or 
a lung infection, but these were discontinued as you did not 
have evidence of infection. 

WHAT SHOULD I DO NOW?
You should take your medications as instructed.
You should go to your doctor's appointments as below. 

We wish you the best!
-Your ___ Care Team 
 
Followup Instructions:
___